US09227956B2
tert-butyl (3R)-3-{isoquinolin-1-yl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate
To a suspension of Preparation 9 tert-butyl (3R)-3-[(4-bromobenzoyl)(isoquinolin-1-yl)amino]-piperidine-1-carboxylate (3.7 g, 7.2 mmol), bis(pinacolato)diboron (3.68 g, 14.5 mmol) and KOAc (2.14 g, 21.8 mmol) in 1,4-dioxane (25 mL) was added PdCl2(dppf) (0.53 g, 0.73 mmol). The resulting mixture was purged with N2 and heated at 80-90° C. for 4 h. The reaction was cooled and concentrated under reduced pressure. The crude compound was purified by silica gel flash chromatography eluting with a gradient of petroleum ether: EtOAc (50:1 to 1.5:1) to give a yellow gum. The yellow gum was triturated with petroleum ether and filtered to afford the title compound (3.8 g, 94%) as a white solid.

reactant | tert-butyl (3R)-3-[(4-bromobenzoyl)(isoquinolin-1-yl)amino]-piperidine-1-carboxylate | 7.2 mmol, 3.7 g | BrC1=CC=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C2=NC=CC3=CC=CC=C23)C=C1 | C26H28BrN3O3
reactant | bis(pinacolato)diboron | 14.5 mmol, 3.68 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 21.8 mmol, 2.14 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.73 mmol, 0.53 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (3R)-3-{isoquinolin-1-yl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl]amino}piperidine-1-carboxylate | 3.8 g, 94% | C1(=NC=CC2=CC=CC=C12)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C32H40BN3O5
